* Subcircuit half_adder
.subckt half_adder 1 4 3 2 
* eeschema netlist version 1.1 (spice format) creation date: wed jun 24 11:31:48 2015
* u2  1 4 3 d_xor
* u3  1 4 2 d_and
a1 [1 4 ] 3 u2
a2 [1 4 ] 2 u3
* Schematic Name:                             d_xor, NgSpice Name: d_xor
.model u2 d_xor(rise_delay=[1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 ] fall_delay=[1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 ] input_load=[1.0e-12 1.0e-12 1.0e-12 1.0e-12 1.0e-12 1.0e-12 1.0e-12 1.0e-12 1.0e-12 1.0e-12 1.0e-12 1.0e-12 1.0e-12 1.0e-12 1.0e-12 1.0e-12 1.0e-12 1.0e-12 1.0e-12 1.0e-12 1.0e-12 1.0e-12 1.0e-12 1.0e-12 1.0e-12 1.0e-12 1.0e-12 1.0e-12 1.0e-12 1.0e-12 1.0e-12 1.0e-12 1.0e-12 1.0e-12 ] )
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u3 d_and(rise_delay=[1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 ] fall_delay=[1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 1.0e-9 ] input_load=[1.0e-12 1.0e-12 1.0e-12 1.0e-12 1.0e-12 1.0e-12 1.0e-12 1.0e-12 1.0e-12 1.0e-12 1.0e-12 1.0e-12 1.0e-12 1.0e-12 1.0e-12 1.0e-12 1.0e-12 1.0e-12 1.0e-12 1.0e-12 1.0e-12 1.0e-12 1.0e-12 1.0e-12 1.0e-12 1.0e-12 1.0e-12 1.0e-12 1.0e-12 1.0e-12 1.0e-12 1.0e-12 1.0e-12 1.0e-12 ] )
* Control Statements

.ends half_adder